US07923456B2
Step 1, Method B: 5-(2-Fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxyethoxy)-amide
To a solution of 5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (1.5 g, 3.64 mmol) and O-(2-vinyloxyethyl)hydroxylamine (749 mg, 7.28 mmol) in THF (30 mL) at 0° C. was added lithium bis(trimethylsilyl)amide as a solution in THF (18 mL, 1 M, 18 mmol) over 5 minutes. The reaction mixture was stirred at ˜0° C. for 1 hour before being quenched with saturated aqueous ammonium chloride. Volatile solvents were removed in vacuo and then diethyl ether (10 mL) and ethyl acetate (20 mL) added. The resultant mixture was sonicated causing a precipitate to form which was filtered off to give the title compound as a yellow solid (1.07 g, 61%). LCMS (Method B): RT=2.79 min, M+H+=483.

reactant | 5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 3.64 mmol, 1.5 g | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C15H11FIN3O2
reactant | O-(2-vinyloxyethyl)hydroxylamine | 7.28 mmol, 749 mg | C(=C)OCCON | C4H9NO2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mmol, 1 M, 18 mL | C1CCOC1 | C4H8O
product | 5-(2-Fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxyethoxy)-amide | 1.07 g, 61% | C(=C)OCCONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C18H16FIN4O3
